US07271130B2
This Example illustrates the preparation of 2-(3,4,5-trimethylphenoxy)-3-methoxy-N-(4-methylpent-2-yn-4-yl)propionamide (Compound No. 3 in Table 1)
In a similar procedure to Example 3 Stage 2, 3,4,5-trimethylphenol was reacted with 2-bromo-N-(4-methylpent-2-yn-4-yl) 3-methoxypropionamide to give the title product as a colourless gum. 1H NMR (CDCl3) δ: 1.61(6H, s); 1.80(3H, s); 2.11(3H, s); 2.26(6H, s); 3.40(3H, s); 3.82(2H, m); 4.53(1H, t); 6.62(2H, s); 6.66(1H, s).

reactant | 3,4,5-trimethylphenol | CC=1C=C(C=C(C1C)C)O | C9H12O
reactant | 2-bromo-N-(4-methylpent-2-yn-4-yl) 3-methoxypropionamide | BrC(C(=O)NC(C#CC)(C)C)COC | C10H16BrNO2
product | 2-(3,4,5-trimethylphenoxy)-3-methoxy-N-(4-methylpent-2-yn-4-yl)propionamide | CC=1C=C(OC(C(=O)NC(C#CC)(C)C)COC)C=C(C1C)C | C19H27NO3
